US05091528
7-nitro-3-oxo-3,4 dihydro-(2H)-1,4-benzoxazine
Under argon, ethyl bromoacetate (7.2 ml, 65 mmol) was added to a solution of anhydrous potassium fluoride (10 g, 172.1 mmol) in 50 ml anhydrous DMF. The solution was stirred for 30 minutes at room temperature. 2-Amino-5-nitrophenol (Aldrich, 10 g, 65 mmol) was then dissolved in 25 ml of DMF and added dropwise to the reaction with stirring. After the final addition the reaction was warmed to 70 degrees and stirred for 16-24 hours. The reaction was then poured into 300 mls of an ice/water mixture with stirring. A yellow precipitate was formed immediately. The solid was filtered off and dried in vacuo. The product was recrystallized from hot THF. Collected 8.3 g (72.5%) of tan crystals: m.p. 227-230; 'H NMR (300 MHz, DMSO) δ 4.752 (s, 2H, CH2), 7.0835 (d, J=8.73, Hz, 1H, ACH), 7.769 (d, J=2.44 Hz, 1 H) 7.9185 (dd, J=2.525, 8.705 Hz, 1H, ACH); 13C NMR (300 MHz, DMSO) δ 66.560, 111.344, 115.776, 118.738, 134.464, 142.643, 142.861, 164.891. Mass spectrum (EI) m/z 194 M+

reactant | ethyl bromoacetate | 65 mmol, 7.2 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium fluoride | 172.1 mmol, 10 g | [F-].[K+]
reactant | 2-Amino-5-nitrophenol | 65 mmol, 10 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 7-nitro-3-oxo-3,4 dihydro-(2H)-1,4-benzoxazine | [N+](=O)([O-])C1=CC2=C(NC(CO2)=O)C=C1 | C8H6N2O4
